US07615555B2
Using tert-butyl 4-methyl-4-{[4-(methylsulfonyl)-2-nitrophenyl]amino}piperidine-1-carboxylate as starting material and following the procedure outlined in Method C, Step 2 but replacing trimethyl orthoacetate with trimethyl orthoformate, there is obtained tert-butyl 4-methyl-4-[5-(methylsulfonyl)-1H-benzimidazol-1-yl]piperidine-1-carboxylate.

reactant | tert-butyl 4-methyl-4-{[4-(methylsulfonyl)-2-nitrophenyl]amino}piperidine-1-carboxylate | CC1(CCN(CC1)C(=O)OC(C)(C)C)NC1=C(C=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C18H27N3O6S
reactant | trimethyl orthoformate | C(OC)(OC)OC | C4H10O3
product | tert-butyl 4-methyl-4-[5-(methylsulfonyl)-1H-benzimidazol-1-yl]piperidine-1-carboxylate | CC1(CCN(CC1)C(=O)OC(C)(C)C)N1C=NC2=C1C=CC(=C2)S(=O)(=O)C | C19H27N3O4S
